US04411900
A mixture of 2-acetamido-4-[3-(4-benzhydrylpiperazin-1-yl)propyl]thiazole (1.2 g), methanol (25 ml) and conc. hydrochloric acid (6 ml) was refluxed under heating for 5 hours. After concentration of the reaction mixture, the resultant crystals were recrystallized from a mixture of methanol and diethyl ether to obtain white crystals (1.05 g) of 2-amino-4-[3-(4-benzhydrylpiperazin-1-yl)propyl]thiazole trihydrochloride, mp 205°-215° C.

reactant | 2-acetamido-4-[3-(4-benzhydrylpiperazin-1-yl)propyl]thiazole | 1.2 g | C(C)(=O)NC=1SC=C(N1)CCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H30N4OS
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
product | 2-amino-4-[3-(4-benzhydrylpiperazin-1-yl)propyl]thiazole trihydrochloride | 1.05 g | Cl.Cl.Cl.NC=1SC=C(N1)CCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H28N4S.3ClH/c24-23-25-21(18-28-23)12-7-13-26-14-16-27(17-15-26)22(19-8-3-1-4-9-19)20-10-5-2-6-11-20;;;/h1-6,8-11,18,22H,7,12-17H2,(H2,24,25);3*1H
